* Z:\mnt\design.r\spice\examples\LT3935.asc
V1 IN 0 12
C1 N007 0 1n
R2 N008 0 45.3K
C2 N010 0 100p
C3 0 N001 1µ
C4 N002 N003 100n
L1 N003 OUT 2.2µ
C5 OUT 0 4.7µ
R3 OUT N006 68m
D1 N006 0 LXK2-PW14
R4 OUT N005 80.6K
R5 N005 0 10K
XU1 N001 N002 N003 OUT N005 OUT N006 MP_01 NC_02 0 N009 N008 0 N007 0 NC_03 N004 N004 N004 IN IN LT3935
R1 N009 N010 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 300u startup
.lib LT3935.sub
.backanno
.end
